US06680313B2
The procedure of Example 1a) was repeated, except that 1.06 g of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate and 1.665 g of 7-(2-formylaminoethyl)thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole were used as the starting compounds. Thus, 818 mg of 4-nitrobenzyl (1S,5R,6S)-2-[7-(2-formylaminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate was prepared.

reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 1.06 g | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | 7-(2-formylaminoethyl)thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 1.665 g | C(=O)NCCSC=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC
product | 4-nitrobenzyl (1S,5R,6S)-2-[7-(2-formylaminoethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 818 mg | C(=O)NCCSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C25H25N5O7S2
